US09029544B2
2-(4-((3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-3′-yl)phenyl)propan-2-ol
110 mg Ethyl 4-((3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-3′-yl)benzoate are dissolved in 3 ml tetrahydrofurane, cooled to −5° C. and treated dropwise with 820 μl of a 1.4 M solution of methylmagnesium bromide in toluene/tetrahydrofurane (72:25). The mixture is warmed to room temperature during 1 hour, then recooled to 0° C. and the reaction is quenched by addition 1 ml methanol. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (petrole ether/ethylacetate 90:10 to 50:50).

reactant | Ethyl 4-((3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-3′-yl)benzoate | 110 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31CCCC1)C1=CC=C(C(=O)OCC)C=C1 | C35H51NO4Si
reactant | methylmagnesium bromide | C[Mg]Br
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
solvent | toluene tetrahydrofurane | C1(=CC=CC=C1)C.O1CCCC1
product | 2-(4-((3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-3′-yl)phenyl)propan-2-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(C)(C)O | C35H53NO3Si
